US06124343
2-Fluoro-4-(4-pyridylmethoxy)benzonitrile
A mixture of 2-fluoro-4-hydroxybenzonitrile (10.96 g; S. M. Kelly, Helv. Chim. Acta 1984, volume 67, p1572-1579), potassium carbonate (53.2 g), potassium iodide (6.64 g), tetra-n-butylammonium bromide (0.4 g) and 4-picolyl chloride (14.4 g) in methyl ethyl ketone (600 ml) was stirred at reflux for 3 hours. The reaction mixture was filtered and the insoluble material washed with methyl ethyl ketone. The combined filtrate plus washings were evaporated and the residue partitioned between ethyl acetate (300 ml) and water (150 ml). The aqueous phase was extracted twice with ethyl acetate (100 ml) and the combined ethyl acetate solutions washed with brine (100 ml), dried over magnesium sulphate and evaporated. The residue was recrystallized from a mixture of ethyl acetate and pentane to give the title compound (11.5 g) as a plum coloured solid, m.p. 132-133° C.

reactant | 2-fluoro-4-hydroxybenzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | potassium carbonate | 53.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 6.64 g | [I-].[K+]
reactant | 4-picolyl chloride | 14.4 g | N1=CC=C(C=C1)CCl | C6H6ClN
catalyst | tetra-n-butylammonium bromide | 0.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methyl ethyl ketone | 600 ml | C(C)C(=O)C | C4H8O
product | 2-Fluoro-4-(4-pyridylmethoxy)benzonitrile | 11.5 g | FC1=C(C#N)C=CC(=C1)OCC1=CC=NC=C1 | C13H9FN2O
